US08119795B2
1.1 80 g of 5-bromo-2,4-dihydroxybenzoic acid are initially introduced in 1 l of methanol, 8 ml of sulfuric acid are added, and the mixture is boiled for 16 hours. The solvent is removed, the residue is taken up in MTB ether, and the solution is subjected to conventional work-up, giving 80 g of methyl 5-bromo-2,4-dihydroxybenzoate.

reactant | 5-bromo-2,4-dihydroxybenzoic acid | BrC=1C(=CC(=C(C(=O)O)C1)O)O | C7H5BrO4
reactant | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 1 l | CO | CH4O
product | methyl 5-bromo-2,4-dihydroxybenzoate | 80 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)O | C8H7BrO4
